US06800627B1
7-Chloro-1,2,3,4-tetrahydropyrazino[1,2-a]indole fumarate
To a stirred suspension of lithium aluminium hydride (95%; 1.18 g, 29.5 mmol) in anhydrous ether (150 mL) under Ar at 14° C. was added portionwise, over 20 min, methyl 6-chloro-1-(cyanomethyl)-indole-2-carboxylate (2.95 g, 11.9 mmol), allowing the internal temperature to stay at, or below 25° C. After addition was complete, the mixture was heated at reflux for 18 h, then allowed to cool. Water (1.18 mL) was cautiously added, followed by 15% aqueous sodium hydroxide (1.18 mL), then water (3.5 mL). After stirring for 30 min, magnesium sulfate was added and the mixture was filtered through Kieselguhr and washed through with ether (50 mL). The solvent was removed in vacuo and the residue was purified by flash chromatography [SiO2; ethyl acetate-methanol (9:1)] to afford the free-base of the title compound (1.38 g, 56%) as a pale yellow solid: NMR δH (400 MHz, CDCl13) 1.64 (1H, br s), 3.35 (2H, t, J 5.5 Hz), 3.96 (2H, t, J 5.5 Hz), 4.19 (2H, d, J 1.0 Hz), 6.16 (1H, d, J 1.0 Hz). 7.04-7.08 (1H, m), 7.23-7.26 (1H, m), and 7.43 (1H, d, J 8.5 Hz). To a sample of the free-base (130 mg, 0.63 mmol) in 2-propanol (4 mL) was added fumaric acid (110 mg, 0.95 mmol) and the mixture was heated to reflux for 1 min. The resultant suspension was allowed to cool to ambient temperature, and then cooled in ice. The solid was filtered and washed with ice-cold 2-propanol (3 mL) to afford the title compound (184 mg, 90%) as a pale yellow solid: mp 202.5° C. (dec.); NMR δH (400 MHz, DMSO-d6) 3.26 (2H, t, J 5.5 Hz), 4.01 (2H t, J 5.5), 4.12 (2H, s), 7.01 (1H, dd, J 8.0, 2.0 Hz) and 7.45-7.49 (2H, m); Found: C, 55.90; H, 4.72; N, 8.58%. C15H15ClN2O4 requires C, 55.82; H. 4.68; N, 8.68%.

reactant | lithium aluminium hydride | 29.5 mmol, 1.18 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 6-chloro-1-(cyanomethyl)-indole-2-carboxylate | 11.9 mmol, 2.95 g | ClC1=CC=C2C=C(N(C2=C1)CC#N)C(=O)OC | C12H9ClN2O2
reactant | sodium hydroxide | 1.18 mL | [OH-].[Na+]
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | ether | 150 mL | CCOCC | C4H10O
solvent | water | 3.5 mL | O | H2O
solvent | Water | 1.18 mL | O | H2O
product | 7-Chloro-1,2,3,4-tetrahydropyrazino[1,2-a]indole fumarate | 1.38 g, 56% | C(\C=C\C(=O)O)(=O)O.ClC=1C=CC=2C=C3N(C2C1)CCNC3 | InChI=1S/C11H11ClN2.C4H4O4/c12-9-2-1-8-5-10-7-13-3-4-14(10)11(8)6-9;5-3(6)1-2-4(7)8/h1-2,5-6,13H,3-4,7H2;1-2H,(H,5,6)(H,7,8)/b;2-1+
